US08222248B2
To a solution of 3,4-diamino-N-quinolin-2-yl-benzamide (770 mg, 2.77 mmol) and (4-formyl-3,5-dimethylphenoxy)-acetic acid methyl ester (615 mg, 2.77 mmol) in DMSO (10 mL) was added Yb(OTf)3 (344 mg, 0.55 mmol) and the mixture was stirred at ambient temperature overnight. The reaction mixture was partioned between water and EtOAc and the aqueous layer was extracted with EtOAc. The combined organic layers were dried with MgSO4, filtered and concentrated. Purification by flash chromatography using heptane/EtOAc (1:4) as eluent gave {3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenoxy}-acetic acid methyl ester as a white solid. MS (m/z) 481.4 (M+1); 1H NMR (Methanol-d4, 400 MHz): δ 8.45 (m, 3H), 8.04 (d, 1H), 7.92 (d, 2H), 7.75 (m, 2H), 7.54 (m, 1H), 6.80 (s, 2H), 4.78 (s, 2H), 3.81 (s, 3H), 2.17 (s, 6H).

reactant | 3,4-diamino-N-quinolin-2-yl-benzamide | 2.77 mmol, 770 mg | NC=1C=C(C(=O)NC2=NC3=CC=CC=C3C=C2)C=CC1N | C16H14N4O
reactant | (4-formyl-3,5-dimethylphenoxy)-acetic acid methyl ester | 2.77 mmol, 615 mg | COC(COC1=CC(=C(C(=C1)C)C=O)C)=O | C12H14O4
reactant | Yb(OTf)3 | 0.55 mmol, 344 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
reactant | water | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenoxy}-acetic acid methyl ester | COC(COC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C(NC2=NC1=CC=CC=C1C=C2)=O)C)=O | C28H24N4O4
